US05606005
A 5-L pressure reaction vessel was charged with 0.19 g of Cu(OCOCH3)2 (H2O) and 1.5 L of acetic acid, and the vessel was pressurized to 7 atm with air and then warmed to 50° C. While air was introduced at a rate of 240 L/hr, a mixture of 750 g of 3,7-dimethyldecanedial and 750 mL of acetic acid was fed thereto over a period of 3 hours. After completion of the feed, the reaction was conducted for an additional 6 hours at the same temperature and pressure. The reaction vessel was cooled, the gas therein was purged and then the reaction mixture was taken out. This mixture was heated at 110° C. for 1 hour under nitrogen atmosphere. The acetic acid was distilled off under a reduced pressure and the residual liquid was distilled to give 3,7-dimethyldecanedioic acid as an almost colorless clear liquid having a boiling point of 175° to 180° C. at 0.80 mmHg. The yield was 61% (435 g). Instrumental-analysis data are shown below.

reactant | H2O | 0.19 g | O | H2O
reactant | 3,7-dimethyldecanedial | 750 g | CC(CC=O)CCCC(CCC=O)C | C12H22O2
reactant | acetic acid | 750 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 1.5 L | C(C)(=O)O | C2H4O2
product | 3,7-dimethyldecanedioic acid | yield was 61% | CC(CC(=O)O)CCCC(CCC(=O)O)C | C12H22O4
